US08071778B2
2-cyclopropyl-6-(((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-4-(trifluoromethyl)pyridine.
2-chloro-6-(((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-4-(trifluoromethyl)pyridine (50 mg, 0.120 mmol), cyclopropylboronic acid (30.9 mg, 0.360 mmol) PdCl2(dppf)-CH2Cl2Adduct (9.80 mg, 0.012 mmol), cesium carbonate (121 mg, 0.372 mmol) were combined in toluene (1 ml). The reaction was flushed with nitrogen and heated to 100° C. for 2 hours. After cooling, the reaction was quenched with 10 ml saturated sodium bicarbonate, and diluted with ethyl acetate. The organics were then washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The resulting oil was purified via preparatory HPLC and the desired product (34.8 mg, 0.082 mmol, 68.7%) was submitted as the TFA salt. 1H-NMR (CD3OD, 400 MHz) δ 7.48 (m, 2H), 7.33 (m, 1H), 7.14 (t, 2H), 7.08 (m, 1H), 4.47 (m, 2H), 3.46 (m, 4H), 2.84 (m, 2H), 2.74 (s, 3H), 2.67 (m, 2H), 2.13 (m, 3H), 0.97 (m, 4H). LC: Tr=1.850 min, HPLC Method 1. Mass spec.: 423.27 (MH)+.

reactant | 2-chloro-6-(((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-4-(trifluoromethyl)pyridine | 0.120 mmol, 50 mg | ClC1=NC(=CC(=C1)C(F)(F)F)COCC1(CCN(CC1)C)C1=CC=C(C=C1)F | C20H21ClF4N2O
reactant | cyclopropylboronic acid | 0.360 mmol, 30.9 mg | C1(CC1)B(O)O | C3H7BO2
reactant | cesium carbonate | 0.372 mmol, 121 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | 2-cyclopropyl-6-(((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-4-(trifluoromethyl)pyridine | 0.082 mmol, 34.8 mg, 68.7% | C1(CC1)C1=NC(=CC(=C1)C(F)(F)F)COCC1(CCN(CC1)C)C1=CC=C(C=C1)F | C23H26F4N2O
